US08754226B2
A flask was charged with (S)-3-(3-chloro-5-(trifluoromethyl)pyridin-2-ylamino)-1,4′-bipiperidin-2-one hydrochloride (0.075 g, 0.18 mmol), 2,5-dichloropyrazine (0.030 g, 0.20 mmol), Hunig's base (0.095 mL, 0.54 mmol), and DMF (3 mL). The reaction was stirred at 100° C. overnight. The organic solvents were removed under reduced pressure. The residue was purified using silica gel column chromatography with 50-100% ethyl acetate in hexanes to provide (S)-3-(3-chloro-5-(trifluoromethyl)pyridin-2-ylamino)-1′-(5-chloropyrazin-2-yl)-[1,4′-bipiperidin]-2-one (0.037 g, 0.076 mmol, 42% yield) as yellow solid. Mass spectrum (apci) m/z=489.2 (M+H).

reactant | (S)-3-(3-chloro-5-(trifluoromethyl)pyridin-2-ylamino)-1,4′-bipiperidin-2-one hydrochloride | 0.18 mmol, 0.075 g | Cl.ClC=1C(=NC=C(C1)C(F)(F)F)N[C@@H]1C(N(CCC1)C1CCNCC1)=O
reactant | 2,5-dichloropyrazine | 0.20 mmol, 0.030 g | ClC1=NC=C(N=C1)Cl | C4H2Cl2N2
reactant | Hunig's base | 0.54 mmol, 0.095 mL | CCN(C(C)C)C(C)C | C8H19N
solvent | DMF | 3 mL | CN(C)C=O | C3H7NO
product | (S)-3-(3-chloro-5-(trifluoromethyl)pyridin-2-ylamino)-1′-(5-chloropyrazin-2-yl)-[1,4′-bipiperidin]-2-one | 0.076 mmol, 0.037 g, 42% yield | ClC=1C(=NC=C(C1)C(F)(F)F)N[C@@H]1C(N(CCC1)C1CCN(CC1)C1=NC=C(N=C1)Cl)=O | C20H21Cl2F3N6O
